US08198279B2
1-(4-(2-amino-3-nitropyridin-4-yloxy)-2-(methylthio)phenyl)-3-(2-fluoro-5-(trifluoromethyl)phenyl)urea
Using Method F2 with 4-(4-amino-3-(methylthio)phenoxy)-3-nitropyridin-2-amine (1.04 g, 3.57 mmol) and 2-fluoro-5-trifluoromethylphenyl isocyanate, the title compound (664 mg, 37%) was obtained as a yellow powder.

reactant | 4-(4-amino-3-(methylthio)phenoxy)-3-nitropyridin-2-amine | 3.57 mmol, 1.04 g | NC1=C(C=C(OC2=C(C(=NC=C2)N)[N+](=O)[O-])C=C1)SC | C12H12N4O3S
reactant | 2-fluoro-5-trifluoromethylphenyl isocyanate | FC1=C(C=C(C=C1)C(F)(F)F)N=C=O | C8H3F4NO
product | 1-(4-(2-amino-3-nitropyridin-4-yloxy)-2-(methylthio)phenyl)-3-(2-fluoro-5-(trifluoromethyl)phenyl)urea | 664 mg, 37% | NC1=NC=CC(=C1[N+](=O)[O-])OC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC(=C1)C(F)(F)F)F)SC | C20H15F4N5O4S
